US07196085B2
A stirred solution of dimethyl 3-oxo-1,3,-dihydroisobenzofuran-1-ylphosphonate (2.42 g, 0.01 mol; prepared in a manner similar to that described in Example 23) and 4-methoxy-3-nitrobenzaldehyde (1.81 g, 0.01 mol) in tetrahydrofuran (15 ml) was cooled to 15° C. and a solution of triethylamine (1.01 g, 0.01 mol) in tetrahydrofuran (1.5 ml) was added dropwise at <25° C. The mixture was stirred at ambient temperature for 4 hours, allowed to stand at this temperature for a further 16 hours and the resulting mixture was concentrated in vacuo. The residue was triturated with water (50 ml) and stirred at ambient temperature for 2 hours before the resulting solid was collected by filtration and dried in vacuo for 24 hours to give crude 3-(4-methoxy-3-nitrobenzylidene)-3H-isobenzofuran-1-one (2.53 g) as a yellow solid, m.pt. 173–181° C., which was used directly in the next stage.

reactant | dimethyl 3-oxo-1,3,-dihydroisobenzofuran-1-ylphosphonate | O=C1OC(C2=CC=CC=C12)P(OC)(OC)=O | C10H11O5P
reactant | 4-methoxy-3-nitrobenzaldehyde | 0.01 mol, 1.81 g | COC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | triethylamine | 0.01 mol, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 3-(4-methoxy-3-nitrobenzylidene)-3H-isobenzofuran-1-one | 2.53 g | COC1=C(C=C(C=C2OC(C3=CC=CC=C23)=O)C=C1)[N+](=O)[O-] | C16H11NO5
